US06531475B1
2,4-Dichloro-6-methylpyridine-3-carboxaldehyde (12′)
DMSO (14.2 mL, 200 mmol) was added to a stirred solution of oxalyl chloride (8.7 mmol, 99 mmol) in dichloromethane (100 mL) at −70° C. After 15 min, alcohol (11′) (6.40 g, 33.3 mmol) in dichloromethane (25 mL) was added, followed by triethylamine (56 mL), and the mixture was allowed to warm to room temperature and stirred for 1 h. The mixture was washed with aqueous sodium bicarbonate (75 mL), dried (MgSO4), and concentrated under vacuum. The residue was purified by column chromatography (elution with 10% ethyl acetate in hexanes) to afford 5.00 g (78%) of (12′) as a pale yellow oil which solidified on standing: LCMS (MH+, 190), Rf 0.48 (20% ethyl acetate in hexanes).

reactant | DMSO | 200 mmol, 14.2 mL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 8.7 mmol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 56 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | dichloromethane | 100 mL | ClCCl | CH2Cl2
reactant | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 2,4-Dichloro-6-methylpyridine-3-carboxaldehyde | ClC1=NC(=CC(=C1C=O)Cl)C | C7H5Cl2NO
